US08629137B2
1-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
0.33 g (1.5 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 0.20 g (0.49 mmol) 6-(2,6-dichloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were stirred in 3 mL NMP for 3 h at 120° C. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 1.5 mmol, 0.33 g | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(2,6-dichloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.49 mmol, 0.20 g | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)Cl | C15H10Cl2N2O3
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 1-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | ClC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C26H23ClN6O4
